US05466701
2-Phenylthiomethyl-4-isopropylsaccharin (53.5 g), sulfuryl chloride (40 mL, 67.2 g) and dichloromethane (250 mL) were mixed with stirring at room temperature. The mixture underwent a slightly exothermic reaction and was allowed to stand for 17 hours at room temperature, then stripped of volatiles. The residue crystallized with hexane in three crops 33.65 g, m.r. 101°-102° C.; 3.45 g, m.r. 100°-101° C.; 0.45 g, m.r. 99°-100° C.; total, 38.55 g, 91% yield). The three crops were combined and recrystallized from isopropyl alcohol (30 mL)-cyclohexane (270 mL) affording 2-chloromethyl-4-isopropylsaccharin in two crops (33.5 g, m.r. 101°-102.5° C.; 2.65 g, m.r. 100°-101° C.).

reactant | 2-Phenylthiomethyl-4-isopropylsaccharin | 53.5 g | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C | C17H17NO3S2
reactant | sulfuryl chloride | 40 mL, 67.2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2-chloromethyl-4-isopropylsaccharin | ClCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C | C11H12ClNO3S
